US04831028
3,4-Dihydro-2-isopropyl-4-methyl-2-[2-(oxiranyl-methoxy)phenyl]-2H-1,4-benzothiazin-3-one
4.7 g (15.0 mmol) of 3,4-dihydro-2-isopropyl-4-methyl-2-(2-hydroxyphenyl)-2H-1,4-benzothiazin-3-one are stirred for 24 hours at 85° C. with 0.6 g of NaOH, 2 ml of H2O and 50 ml of epichlorohydrin. After dilution with water, the mixture is extracted with methylene chloride, and the extract is dried with sodium sulfate and concentrated. This gives 5.3 g of the title compound as a colorless oil.

reactant | 3,4-dihydro-2-isopropyl-4-methyl-2-(2-hydroxyphenyl)-2H-1,4-benzothiazin-3-one | 15.0 mmol, 4.7 g | C(C)(C)C1(SC2=C(N(C1=O)C)C=CC=C2)C2=C(C=CC=C2)O | C18H19NO2S
reactant | NaOH | 0.6 g | [OH-].[Na+]
reactant | epichlorohydrin | 50 ml | C(Cl)C1CO1 | C3H5ClO
solvent | H2O | 2 ml | O | H2O
product | 3,4-Dihydro-2-isopropyl-4-methyl-2-[2-(oxiranyl-methoxy)phenyl]-2H-1,4-benzothiazin-3-one | C(C)(C)C1(SC2=C(N(C1=O)C)C=CC=C2)C2=C(C=CC=C2)OCC2OC2 | C21H23NO3S
